US06878728B1
(3R,3aS,6aR)-Hexahydrofuro[2,3-b]furan-3-yl (1S,2R)-3-[(1,3-benzodioxol-5-ylsulfonyl)(isobutyl)amino]-2-hydroxy-1-[4-(2-hydroxyethoxy)benzyl]propylcarbamate (322)
To a stirred solution of (3R,3aS,6aR)-Hexahydrofuro[2,3-b]furan-3-yl-(1S,2R)-3-[(1,3-benzodioxol-5-ylsulfonyl)(isobutyl)amino]-1-[4-(2-{[tert-butyl(dimethyl)silyl]oxy}ethoxy)benzyl]-2-hydroxypropylcarbamate (160 mg, 0.21 mmol) in tetrahydrofuran (3 mL) at 5° C. was added a mixture of tetrabutylammonium fluoride (0.3 mL, 1M in tetrahydrofuran) and glacial acetic acid (0.3 mL) over 2 minutes. The reaction was allowed to warm to ambient temperature and stirred for 18 hours. The mixture was diluted with ethyl acetate (50 mL), washed with water (25 mL) followed by saturated sodium bicarbonate (20 mL) and then brine (20 mL), dried (magnesium sulfate) and concentrated in vacuo to afford the title compound (135 mg, quant.) as a white solid. 1H NMR (DMSO-d6): δ 0.78 (6H, dd), 1.17-1.42 (2H, m), 1.92 (1H, m), 2.33 (1H, t), 2.64-2.78 (3H, m), 2.89-3.02 (2H, m), 3.24-3.29 (1H, m), 3.52-3.73 (7H, m), 3.78-3.82 (1H, m), 3.86 (2H, t), 4.78-4.82 (2H, m), 4.99 (1H, d), 5.46 (1H, d), 6.12 (2H, s), 6.73 (2H, d), 7.02-7.28 (6H, m); MS: 637 (MH+)

reactant | (3R,3aS,6aR)-Hexahydrofuro[2,3-b]furan-3-yl-(1S,2R)-3-[(1,3-benzodioxol-5-ylsulfonyl)(isobutyl)amino]-1-[4-(2-{[tert-butyl(dimethyl)silyl]oxy}ethoxy)benzyl]-2-hydroxypropylcarbamate | 0.21 mmol, 160 mg | O1C[C@@H]([C@H]2[C@@H]1OCC2)OC(N[C@H]([C@@H](CN(CC(C)C)S(=O)(=O)C2=CC1=C(OCO1)C=C2)O)CC2=CC=C(C=C2)OCCO[Si](C)(C)C(C)(C)C)=O | C36H54N2O11SSi
reactant | tetrabutylammonium fluoride | 1M, 0.3 mL | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
reactant | acetic acid | 0.3 mL | C(C)(=O)O | C2H4O2
solvent | tetrahydrofuran | 3 mL | O1CCCC1 | C4H8O
solvent | ethyl acetate | 50 mL | C(C)(=O)OCC | C4H8O2
product | (3R,3aS,6aR)-Hexahydrofuro[2,3-b]furan-3-yl (1S,2R)-3-[(1,3-benzodioxol-5-ylsulfonyl)(isobutyl)amino]-2-hydroxy-1-[4-(2-hydroxyethoxy)benzyl]propylcarbamate | 135 mg | O1COC2=C1C=CC(=C2)S(=O)(=O)N(C[C@H]([C@H](CC2=CC=C(C=C2)OCCO)NC(O[C@H]2CO[C@H]1OCC[C@H]12)=O)O)CC(C)C | C30H40N2O11S
